US07122672B2
This Example Illustrates the Preparation of 2-(6-quinolinyloxy)-N-(4-methylpent-2-yn-4-yl) butyramide (Compound No. 2 of Table 1)
6-Hydroxyquinoline (0.46 g) in dry N,N-dimethylformamide (10 ml) was added dropwise to a stirred suspension of sodium hydride (0.10 g, 80% dispersion in mineral oil) in dry N,N-dimethylformamide under an atmosphere of nitrogen at ambient temperature. The green solution was stirred at ambient temperature for 1 hour and a solution of 2-bromo-N-(4-methylpent-2-yn-4-yl) butyramide (0.74 g) in dry N,N-dimethylformamide (10 ml) was added. The mixture was stirred at ambient temperature for 18 hours, poured into water and extracted into diethyl ether (three times). The organic extracts were combined, washed with dilute aqueous sodium hydroxide, water (twice), dried over magnesium sulphate and evaporated under reduced pressure to give a gum. The gum was fractionated by chromatography (silica; diethyl ether) to give the required product, 0.44 g, as a colourless gum.

reactant | 6-Hydroxyquinoline | 0.46 g | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | 2-bromo-N-(4-methylpent-2-yn-4-yl) butyramide | 0.74 g | BrC(C(=O)NC(C#CC)(C)C)CC | C10H16BrNO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(6-quinolinyloxy)-N-(4-methylpent-2-yn-4-yl) butyramide | N1=CC=CC2=CC(=CC=C12)OC(C(=O)NC(C#CC)(C)C)CC | C19H22N2O2
